US07531532B2
1-[4-(4-Amino-3-chlorophenoxy)pyridin-2-yl]-3-[3-(1-methylpiperazin-4-yl)propyl]urea
4-(4-Amino-3-chlorophenoxy)pyridin-2-ylamine (750 mg, 3.18 mmol) was dissolved in tetrahydrofuran (30 ml), and then triethylamine (0.444 ml, 4.77 mmol) was added thereto. Phenyl chloroformate (0.399 ml, 4.77 mmol) was added dropwise thereto while ice-cooling, followed by stirring at room temperature for 4 hrs and 45 min. Triethylamine (0.222 ml) and phenyl chloroformate (0.200 ml) were further added thereto, followed by stirring for 40 min. Triethylamine (0.111 ml) and phenyl chloroformate (0.100 ml) were further added thereto, followed by stirring for 40 min. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (10 ml) and 3-(1-methylpiperazin-4-yl)propylamine (2.32 ml, 15.9 mmol) were added, followed by stirring at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate, then ethyl acetate:methanol=10:1 to 20:3). The crude purified fraction was concentrated, and purified again by silica gel column chromatography (Fuji Silysia NH, hexane:ethyl acetate=1:1, ethyl acetate, then ethyl acetate:methanol=10:1 to 20:3) to provide the titled compound (691 mg, 1.65 mmol, 51.9%) as colorless powder.

reactant | 4-(4-Amino-3-chlorophenoxy)pyridin-2-ylamine | 3.18 mmol, 750 mg | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)Cl | C11H10ClN3O
reactant | triethylamine | 4.77 mmol, 0.444 ml | C(C)N(CC)CC | C6H15N
reactant | Phenyl chloroformate | 4.77 mmol, 0.399 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Triethylamine | 0.222 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.200 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Triethylamine | 0.111 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.100 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-(1-methylpiperazin-4-yl)propylamine | 15.9 mmol, 2.32 ml | CN1CCN(CC1)CCCN | C8H19N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(4-Amino-3-chlorophenoxy)pyridin-2-yl]-3-[3-(1-methylpiperazin-4-yl)propyl]urea | 1.65 mmol, 691 mg, 51.9% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)NCCCN2CCN(CC2)C)C=C1)Cl | C20H27ClN6O2
